US09126931B2
8-((S)-2,2-Dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (20.0 mg, 0.048 mmol), ammonium chloride (1.28 mg, 0.024 mmol) and NaN3 (6.24 mg, 0.096 mmol) were dissolved in DMF, and the mixture was stirred at 120° C. for 14 hrs. NaN3 (6.24 mg, 0.096 mmol) was further added to the mixture, which was then stirred at 120° C. for 30 hrs. The reaction solution was added with 1 N aqueous solution of hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and concentrated under reduced pressure. The resultant solid obtained after concentration was washed with hexane:ethyl acetate=1:1 to obtain 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-3-(2H-tetrazol-5-yl)-5,6-dihydro-benzo[b]carbazol-11-one as a white solid.

reactant | 8-((S)-2,2-Dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.048 mmol, 20.0 mg | CC1(OC[C@@H](O1)COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)C | C25H24N2O4
reactant | ammonium chloride | 0.024 mmol, 1.28 mg | [Cl-].[NH4+]
reactant | NaN3 | 0.096 mmol, 6.24 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaN3 | 0.096 mmol, 6.24 mg | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy)-6,6-dimethyl-3-(2H-tetrazol-5-yl)-5,6-dihydro-benzo[b]carbazol-11-one | CC1(OC[C@@H](O1)COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C=2N=NNN2)(C)C)C1)C | C25H25N5O4
